US09107411B2
2,2,2-Trifluoro-1-[3-(trifluoromethyl)phenyl]ethanamine (0.23 g, 0.82 mmol) was dissolved in N,N-dimethylformamide (4 ml), and 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid (0.23 g, 0.82 mmol), N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate (0.31 g, 0.82 mmol) and 4-methylmorpholine (0.25 g, 2.47 mmol) were added. The reaction mixture was stirred at room temperature for 16 h and then ethyl acetate was added. The organic phase was washed with saturated sodium hydrogencarbonate solution and saturated sodium chloride solution and dried over sodium sulphate, and the solvent was removed under reduced pressure. The residue was chromatographed with cyclohexane/ethyl acetate (1/1) and gave 0.24 g (57% of theory) of 6-chloro-N5-cyclopropyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-benzimidazole-2,5-dicarboxamide.

reactant | 2,2,2-Trifluoro-1-[3-(trifluoromethyl)phenyl]ethanamine | 0.82 mmol, 0.23 g | FC(C(N)C1=CC(=CC=C1)C(F)(F)F)(F)F | C9H7F6N
reactant | 6-chloro-5-(cyclopropylcarbamoyl)-1H-benzimidazole-2-carboxylic acid | 0.82 mmol, 0.23 g | ClC=1C(=CC2=C(NC(=N2)C(=O)O)C1)C(NC1CC1)=O | C12H10ClN3O3
reactant | N-[(1H-benzotriazol-1-yloxy)(dimethylamino)methylene]-N-methylmethanaminium hexafluorophosphate | 0.82 mmol, 0.31 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 4-methylmorpholine | 2.47 mmol, 0.25 g | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-chloro-N5-cyclopropyl-N2-{2,2,2-trifluoro-1-[3-(trifluoromethyl)phenyl]ethyl}-1H-benzimidazole-2,5-dicarboxamide | 0.24 g, 57% | ClC=1C(=CC2=C(NC(=N2)C(=O)NC(C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F)C1)C(=O)NC1CC1 | C21H15ClF6N4O2
